US06683095B2
Synthesis of (E)-3-[2,4bis(benzyloxy)phenyl]-1-(2-hydroxy-5-methyl-3-nitrophenyl)-2-propen-1-one
2-Hydroxy-5-methyl-3-nitroacetophenone (500 mg, 2.56 mmol) and 2,4-dibenzyloxybenzaldehyde (900 mg, 2.83 mmol) were reacted according to the same procedure as Preparation 22 to give 540 mg (Yield 43%) of the title compound.

reactant | 2-Hydroxy-5-methyl-3-nitroacetophenone | 2.56 mmol, 500 mg | CC1=CC(=C(C(=C1)C(=O)C)O)[N+](=O)[O-] | C9H9NO4
reactant | 2,4-dibenzyloxybenzaldehyde | 2.83 mmol, 900 mg | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)OCC1=CC=CC=C1 | C21H18O3
product | (E)-3-[2,4bis(benzyloxy)phenyl]-1-(2-hydroxy-5-methyl-3-nitrophenyl)-2-propen-1-one | 540 mg, Yield 43% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)/C=C/C(=O)C1=C(C(=CC(=C1)C)[N+](=O)[O-])O | C30H25NO6
